US05180418
A solution of 2.4 g of potassium hydroxide in 50 ml of ethanol is added dropwise while stirring at a temperature of +5° C. to a solution of 14.2 g of 2-(5-amino-2-chloro-4-fluorophenylthio)-4-chlorobutyric acid ethyl ester in 25 ml of ethanol. After stirring for 18 hours, 0.9 g of potassium hydroxide is added a further 3 times, and the reaction mixture is stirred for 6 hours each time until the reaction is complete. The reaction mixture is then concentrated, water is added and extraction is carried out 3 times with ethyl acetate. The combined organic phases are dried over sodium sulfate and then concentrated by evaporation. Recrystallisation of the residue from ethyl acetate/n-hexane yields 8.4 g of 1-(5-amino-2-chloro-4-fluoro-phenylthio)-cyclopropanecarboxylic acid having a melting point of from +266° to +267° C.

reactant | potassium hydroxide | 2.4 g | [OH-].[K+]
reactant | 2-(5-amino-2-chloro-4-fluorophenylthio)-4-chlorobutyric acid ethyl ester | 14.2 g | C(C)OC(C(CCCl)SC1=C(C=C(C(=C1)N)F)Cl)=O | C12H14Cl2FNO2S
reactant | potassium hydroxide | 0.9 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-(5-amino-2-chloro-4-fluoro-phenylthio)-cyclopropanecarboxylic acid | 8.4 g | NC=1C(=CC(=C(C1)SC1(CC1)C(=O)O)Cl)F | C10H9ClFNO2S
